US06211234B1
A mixture of methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate (11.6 g),sodium hydroxide (60 mL; 1 N) and 1,4-dioxane is stirred at ambient temperature for 18 hours. The reaction mixture is then concentrated to dryness and dissolved in water (50 mL), acidified to pH 1 by treatment with concentrated hydrochloric acid, and extracted with chloroform. The organic layer is dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave an oil. Trituration with a mixture of pentane and diethyl ether (1:1 v/v) and recrystallisation of the resulting solid with a mixture of diethyl ether and pentane gives (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoic acid (5.1 g), in the form of a white solid, m.p. 127-129° C. [Elemental analysis:-: C,76.9;H,5.94%; Calculated:- C,76.98;H,5.92%]. (ii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(2-chlorophenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(2-chlorophenyl)-5-oxopentanoic acid in the form of a white solid after recrystallisation from ethyl acetate and pentane, m.p. 131-132° C. [Elemental analysis:- C,70.8;H,5.17;Cl,8.7%; Calculated; C,70.5;H,5.18;Cl,8.67%]. (iii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(2-methoxyphenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 1 hour, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(2-methoxyphenyl)-5-oxopentanoic acid in the form of a white solid after trituration with diisopropyl ether and pentane and recrystallisation from ethyl acetate, m.p. 143-144° C. [Elemental analysis:- C,74.3;H,6.10%. Calculated:- C,74.24;H,6.10%]. (iv) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(2-methylphenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 1.5 hours, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(2-methylphenyl)-5-oxopentanoic acid in the form of a pale yellow solid after recrystallisation from a mixture of ethyl acetate and pentane, m.p. 121-122° C. [Elemental analysis:- C,77.3;H,6.28%. Calculated:- C,77.3; H,6.23%]. (v) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(2-ethylphenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 2.5 hours, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(2-ethylphenyl)-5-oxopentanoic acid in the form of a white solid after recrystallisation from a mixture of ethyl acetate and pentane, m.p. 85-86° C. [Elemental analysis:- C,77.0;H,6.38%; Calculated:- C,77.58;H,6.51%]. (vi) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(2-chloro-6-fluorophenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 1 hour, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(2-chloro-6-fluorophenyl)-5-oxopentanoic acid in the form of a white solid after trituration with diisopropyl ether/pentane and recrystallisation from ethyl acetate/pentane, m.p. 95-96° C. [Elemental analysis:- C,67.5; H,4.72;Cl,8.20%. Calculated:- C,67.53; H,4.72; Cl,8.31%]. (vii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenyl-pentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(2,6-dichlorophenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 30 minutes, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(2,6-dichlorophenyl)-5-oxopentanoic acid in the form of a white solid after trituration with a mixture of diisopropyl ether and pentane and recrystallisation from a mixture of ethyl acetate and pentane, m.p. 113-114° C. [Elemental analysis:- C,64.6;H,4.43; Cl,15.70%. Calculated:- C,65.02;H,4.55; Cl,15.99%]. (viii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(4-methoxyphenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 1.5 hours, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(4-methoxyphenyl)-5-oxopentanoic acid in the form of a white solid after trituration with pentane, m.p. 74° C. [Elemental analysis:- C 74.3;H 5.95%. Calculated:- C 74.24; H,5.98%]. (ix) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(3,4-dichlorophenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 3 hours, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(3,4-dichlorophenyl)-5-oxopentanoic acid in the form of a yellow solid after trituration from pentane, m.p. 87-88° C. [Elemental analysis:- C,64.50;H,4.51;Cl,15.60%. Calculated:- C,65.02;H,4.55;Cl,15.99%]. (x) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(4-chlorophenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 1 hour, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(4-chlorophenyl)-5-oxopentanoic acid in the form of a white solid after chromatography on silica gel using a mixture of ethyl acetate and pentane (1:1 v/v) and trituration of the resulting solid with diisopropyl ether, m.p. 91° C. [Elemental analysis:- C,70.4;H,5.14; Cl,8.6%. Calculated:- C,75.5;H,5.17;Cl,8.67%]. (xi) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(4-methylphenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 3.5 hours, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(4-methylphenyl)-5-oxopentanoic acid in the form of a white solid after recrystallisation from a mixture of diisopropyl ether and pentane, m.p. 105-106° C. [Elemental analysis:- C,77.1;H,6.17%. Calculated:- C,77.3;H,6.23%]. (xii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(3-chlorophenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 1.5 hours, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(3-chlorophenyl)-5-oxopentanoic acid in the form of a white solid after trituration with a mixture of diethyl ether and pentane and recrystallisation from a mixture of ethyl acetate and pentane, m.p. 110-111° C. [Elemental analysis:- C,70.3;H,5.10;Cl,8.50%. Calculated:- C,70.5;H,5.18;Cl,8.67%]. (xiii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(3-methoxyphenyl)-5-oxopentanoate and using 15% potassium hydroxide in methanol at reflux for 1 hour, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(3-methoxyphenyl)-5-oxopentanoic acid in the form of a white solid after trituration with a mixture of diisopropyl ether and pentane and recrystallisation from a mixture of ethyl acetate and pentane, m.p. 94-95° C. [Elemental analysis:- C,73.0;H,5.93%; Calculated for C25H24O5.0.25AcOEt:- C,73.22; H,6.14%]. (xiv) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(4-benzyloxyphenyl)-5-oxo-4-phenylpentanoate, there is prepared (RS)-5-(4-benzyloxyphenyl)-5-oxo-4-phenylpentanoic acid in the form of a white solid after trituration with pentane, m.p. 147-149° C. [Elemental analysis:- C,77.4;H,6.06%. Calculated:- C,76.98; H,5.92%]. (xv) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-4-(3-benzyloxyphenyl)-4-oxo-3-phenylbutanoate, there is prepared (RS)-4-(3-benzyloxyphenyl)-4-oxo-3-phenylbutanoic acid in the form of a white solid after recrystallisation from a mixture of ethyl acetate and pentane, m.p. 150-152° C. [Elemental analysis:- C,76.7;H,5.67%. Calculated:- C,76.65; H,5.59%]. (xvi) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of ethyl (RS)-6-(3-benzyloxyphenyl)-6-oxo-5-phenylhexanoate, there is prepared (RS)-6-(3-benzyloxyphenyl)-6-oxo-5-phenylhexanoic acid in the form of a white solid after trituration with pentane and recrystallisation from a mixture of ethyl acetate and cyclohexane, m.p. 107-109° C. [Elemental analysis:- C,77.0;H,6.22%. Calculated:- C,77.3;H,6.23%]. (xvii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by ethyl (RS)-7-(3-benzyloxyphenyl)-7-oxo-6-phenylheptanoate, there is prepared (RS)-7-(3-benzyloxyphenyl)-7-oxo-6-phenylheptanoic acid in the form of an orange oil after chromatography on silica gel eluting with a mixture of pentane and ethyl acetate (8:1 v/v). [Elemental analysis:- C,77.2:H,66%; Calculated:- C,77.59; H,6.51%]. (xviii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of ethyl (RS)-6-(3-benzyloxyphenyl)-6-oxo-5-phenylhex-2-enoate, there is prepared (RS)-6-(3-benzyloxyphenyl)-6-oxo-5-phenylhex-2-enoic acid in the form of an oil after chromatography on silica gel eluting with a mixture of pentane and ethyl acetate (1:4 v/v). [Elemental analysis:- C,75.6;H,5.87%. Calculated:- C,75.96;H,5.73%]. (xix) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-(2-pyridyl)pentanoate and acidifying to pH 4.5 rather than pH 1 prior to extraction, there is prepared (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-(2-pyridyl)pentanoic acid in the form of a white solid after chromatography on silica gel eluting with a mixture of pentane and ethyl acetate (1:1 v/v) followed by trituration with pentane, m.p. 99-104° C. [Elemental analysis:- C,73.2;H,5.91; N,3.5%. Calculated:- C,73.58;H,5.64;N,3.73%]. (xx) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (3RS,4RS)-5-(3-benzyloxyphenyl)-3-methyl-5-oxo-4-phenylpentanoate, there is prepared (3RS,4RS)-5-(3-benzyloxyphenyl)-3-methyl-5-oxo-4-phenylpentanoic acid in the form of a white solid after trituration with pentane, m.p. 68-70° C. [Elemental analysis:- C,77.0; H,6.28%. Calculated:- C,77.29;H,6.22%]. (xxi) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)l-5-oxo-4-phenylpentanoate by methyl (2RS,4RS)-5-(3-benzyloxyphenyl)-2-methyl-5-oxo-4-phenylpentanoate, there is prepared (2RS,4RS)-5-(3-benzyloxyphenyl)-2-methyl-5-oxo-4-phenylpentanoic acid in the form of a white solid after recrystallisation from a mixture of ethyl acetate and pentane, m.p. 98-100° C. [Elemental analysis:- C,77.0;H,6.13%. Calculated:- C,77.29; H,6.22%]. (xxii) By proceeding in a similar manner, but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-methoxyphenyl)-4-(2-methylphenyl)-5-oxopentanoate, and carrying out the reaction at 60° C. for 3 hours, there is prepared (RS)-5-(3-methoxyphenyl)-4-(2-methylphenyl)-5-oxopentanoic acid, in the form of a white solid, m.p. 108-11 0° C. [Elemental analysis:- C,72.7; H,6.42%; Calculated:- C,73.1;H,6.45%]. (xxiii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(2-methoxybenzyloxy)phenyl]-5-oxo-4-phenylpentanoate, there is prepared (RS)-5-[3-(2-methoxybenzyloxy)phenyl]-5-oxo-4-phenylpentanoic acid in the form of a white solid after trituration with a mixture of pentane, ethyl acetate and acetic acid (72/28/1) and trituration with pentane, m.p. 111-113° C. [NMR(CDCl3):- 2.1-2.5(4H,m),3.9(3H,s), 4.6(1H,t),5.1(2H,s),6.9-7.6(13H)]. (xxiv) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(3,4-methylenedioxybenzyloxy)phenyl]-5-oxo-4-phenylpentanoate, there is prepared (RS)-5-[3-(3,4-methylenedioxybenzyloxy)phenyl]-5-oxo-4-phenylpentanoic acid, m.p. 92-94° C. [Elemental analysis:- C,71.4;H,5.46%. Calculated:- C,71.8;H,5.29%]. (xxv) By proceeding in a similar manner, but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-4-(2-methylphenyl)-5-[3-(2-methylpropoxy)phenyl]-5-oxopentanoate, and carrying out the reaction for 18 hours, there is prepared (RS)-4-(2-methylphenyl)-5-[3-(2-methylpropoxy)phenyl]-5-oxopentanoic acid, in the form of a white solid after recrystallisation from a mixture of ethyl acetate and hexane, m.p. 96-98° C. [Elemental analysis:- C,74.0;H,7.3%; Calculated:- C,74.5;H,7.39%]. (xxvi) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(4-chlorobenzyl-oxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-[3-(4-chlorobenzyl-oxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoic acid, m.p. 131-133° C. [Elemental analysis; C,71.2;H,5.48%. Calculated:- C,71.0;H,5.48%]. (xxvii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-cyclopentylmethoxyphenyl)-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-(3-cyclopentylmethoxyphenyl)-4-(2-methylphenyl)-5-oxopentanoic acid, m.p. 104-105° C. [Elemental analysis:- C,75.7;H,7.60%. Calculated:- C,75.8; H,7.42%]. (xxviii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(3-thienylmethoxy)- phenyl]-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-[3-(3-thienylmethoxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoic acid hydrate, m.p. 94-98° C. [Elemental analysis:- C,67.1;H,5.60%. Calculated for C23H22O4S.H2O:- C,67.1; H,5.85%]. (xxix) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxy-phenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(2-fluorobenzyl-oxy) phenyl]-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-[3-(2-fluorobenzyl-oxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoic acid, m.p. 108-110C. [Elemental analysis:- C, 73.5;H,5.65%. Calculated:- C,73.9;H,5.70%]. (xxx) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(2-furylmethoxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-[3-(2-furylmethoxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoic acid, m.p. 92-94° C. [Elemental analysis:- C,72.9;H,5.81%. Calculated:- C,73.0;H,5.86%]. (xxxi) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(3-furylmethoxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-[3-(3-furylmethoxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoic acid, m.p. 83-85° C. [Elemental analysis:- C,72.6;H,5.66%. Calculated:- C,73.0; H,5.86%]. (xxxii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(3-chlorobenzyl-oxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-[3-(3-chlorobenzyl-oxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoic acid, m.p. 103-105° C. [Elemental analysis:- C,71.1;H,5.45%. Calculated:- C,71;H,5.48%]. (xxxiii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(4-methoxy-benzyloxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-[3-(4-methoxybenzyloxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoic acid, m.p. 132-133° C. [Elemental analysis; C,74.4;H,6.25%. Calculated:- C,74.4;H,6.25%]. (xxxiv) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-4-(2-methylphenyl)-5-oxo-5-(3-(2-pyridylmethoxy)phenyl)pentanoate, there is prepared (RS)-4-(2-methylphenyl)-5-oxo-5-(3-(2-pyridylmethoxy)phenyl)pentanoic acid, m.p. 152-154° C. [Elemental analysis:- C,74.0;H,5.95%. Calculated:- C,74.0;H,5.95%]. (xxxv) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-4-(2-methylphenyl)-5-oxo-5-[3-(2-thienylmethoxy)phenyl]pentanoate, there is prepared (RS)-4-(2-methylphenyl)-5-oxo-5-[3-(2-thienylmethoxy)phenyl]-pentanoic acid, m.p. 96-98° C. [Elemental analysis:- C,70.1; H,5.67%. Calculated:- C,70.0;H,5.62%]. (xxxvi) By proceeding in a similar manner, but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(2-methyl-3-benzyloxyphenyl)-4-(2-methylphenyl)-5-oxopentanoate, and carrying out the reaction for 18 hours, there is prepared (RS)-5-(2-methyl-3-benzyloxyphenyl)-4-(2-methylphenyl)-5-oxopentanoic acid, in the form of a white solid after recrystallisation from ethyl acetate, m.p. 177-178° C. [Elemental analysis:- C,77.7; H,6.54%; Calculated:- C,77.6;H,6.51%]. (xxxvii) By proceeding in a similar manner, but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3,5-dibenzyloxyphenyl)-4-(2-methylphenyl)-5-oxopentanoate, and using a solution of potassium hydroxide in methanol (15% w/v) at reflux for 1.5 hours, and subjecting to flash chromatography on silica gel, eluting with a mixture of ethyl acetate and pentane (2:3 v/v), there is prepared (RS)-5-(3,5-dibenzyloxyphenyl)-4-(2-methylphenyl)-5-oxo-pentanoic acid, in the form of a pale yellow oil. [Elemental analysis:- C,76.6;H,6.08%; Calculated for C32H30O5.0.25AcOEt:- C,76.7;H,6.24%]. (xxxviii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(3-methoxybenzyloxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-[3-(3-methoxybenzyloxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoic acid, m.p. 72-74° C. [Elemental analysis:- C,74.6;H,6.27%. Calculated:- C,74.6; H,6.26%]. (xxxix) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(3-aminobenzyloxy)-phenyl]-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-[3-(3-aminobenzyloxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoic acid in the form of an oil. [Elemental analysis:- C,73.9; H,6.34;N,3.43%. Calculated:- C,74.4;H,6.24; N,3.47%]. (xxxx) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-[3-(3-isothiazolylmethoxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-[3-(3-isothiazolylmethoxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoic acid, m.p. 102-104° C. [Elemental analysis:- C,66.8;H,5.33;N,3.44%. Calculated:- C,66.8;H,5.35; N,3.54%]. (xxxxi) By proceeding in a similar manner, but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxy-5-hydroxyphenyl)-4-(2,3-dimethylphenyl)-5-oxopentanoate, there is prepared (RS)-5-(3-benzyloxy-5-hydroxyphenyl)-4-(2,3-dimethylphenyl)-5-oxopentanoic acid. (xxxxii) By proceeding in a similar manner, but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxy-4-methylphenyl)-4-(2-methylphenyl)-5-oxopentanoate, and using a solution of potassium hydroxide in methanol (15% w/v) at reflux for 1 hour, there is prepared (RS)-5-(3-benzyloxy-4-methyl-phenyl)-4-(2-methylphenyl)-5-oxopentanoic acid, in the form of a white solid after trituration with pentane, m.p. 94-98° C. [Elemental analysis:- C,77.1; H,6.58%. Calculated:- C,77.6;H,6.51%]. (xxxxiii) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-4-(2-methylphenyl)-5-oxo-5-[3-(4-pyridy)methoxy)phenyl]pentanoate, there is prepared (RS)-4-(2-methylphenyl)-5-oxo-5-[3-(4-pyridylmethoxy)phenyl]pentanoic acid, m.p. 124-125° C. [Elemental analysis:- C,74.0;H,6.05;N,3.43%. Calculated:- C,74.0;H,5.95; N,3.60%]. (xxxxiv) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-4-(2-methylphenyl)-5-[3-(3-methyl-2-thienylmethoxy)phenyl]-5-oxopentanoate, there is prepared (RS)-4-(2-methyl-phenyl)-5-[3-(3-methyl-2-thienylmethoxy)phenyl]-5-oxopentanoic acid, m.p. 88-90° C. [Elemental analysis:- C,70.3;H,5.98%; C24H24O4S requires C,70.6; H,5.92%]. (xxxxv) By proceeding in a similar manner but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-4-(2-methylphenyl)-5-oxo-5-[3-(3-pyridylmethoxy) phenyl]pentanoate, there is prepared (RS)-4-(2-methylphenyl)-5-oxo-5-[3-(3-pyridylmethoxy)phenyl]pentanoic acid hydrate in the form of an oil. [Elemental analysis:- C,72.9;H,6.44; N,3.27%; Calculated for C24H23NO4.0.3H2O:- C,72.9;H,6.03;N,3.54%]. (xxxxvi) By proceeding in a similar manner, but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxyphenyl)-4-(2,5-dimethylphenyl)-5-oxopentanoate, and using a solution of potassium hydroxide in methanol (15% w/v) at reflux for 0.75 hours, there is prepared (RS)-5-(3-benzyloxyphenyl)-4-(2,5-dimethylphenyl)-5-oxopentanoic acid, in the form of a white solid after trituration with diisopropyl ether, m.p. 146-148° C. [Elemental analysis:- C,77.2;H,6.5%. Calculated:- C,77.6;H,6.51%]. (xxxxvii) By proceeding in a similar manner, but replacing the methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate by the appropriate quantity of methyl (RS)-5-(3-benzyloxy-6-hydroxyphenyl)-4-(2-methylphenyl)-5-oxopentanoate, there is prepared (RS)-5-(3-benzyloxy-6-hydroxyphenyl)-4-(2-methylphenyl)-5-oxopentanoic acid, in the form of a yellow oil.

reactant | methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate | 11.6 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(CCC(=O)OC)C1=CC=CC=C1)=O | C25H24O4
reactant | sodium hydroxide | 1 N, 60 mL | [OH-].[Na+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | pentane | CCCCC | C5H12
solvent | diethyl ether | C(C)OCC | C4H10O
product | (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoic acid | 5.1 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(CCC(=O)O)C1=CC=CC=C1)=O | C24H22O4
